### PR TITLE
Misc. items from pair programming sessions

### PR DESCRIPTION
**Pull request by blaxill**
https://github.com/project-oak/oak-hardware/compare/main...blaxill:inversion_proofs?expand=1#diff-02298347779c6fa5bad3bbfccd9f4c62#R78-R82

~~these axioms come from the disabled circuit laws class. Perhaps this section shouldnt be included~~

### CODE REVIEW

File: cava/arrow-examples/Aes/sbox_canright.v [hunk 1]
```diff
@@ -99,5 +99,25 @@ Definition aes_sbox_canright
...
+
+Lemma canright_composed_combinational: is_combinational canright_composed.
+Proof. simply_combinational. Qed.
+
+Notation "# x" := (nat_to_bitvec_sized 8 x) (at level 99).
+
+Goal combinational_evaluation canright_composed canright_composed_combinational (# 0) = (# 0).
+Proof. vm_compute; auto. Qed.
+
+(* TODO(blaxill): reduced bound for CI time *)
```
Comment (jadephilipoom) [inline cava/arrow-examples/Aes/sbox_canright.v:119]: Should this be resolved before merging?

**Review by jadephilipoom — APPROVED** [review]
LGTM!

File: cava/arrow-examples/Aes/sbox_canright.v (hunk 1 above)
Comment (blaxill) [reply cava/arrow-examples/Aes/sbox_canright.v:119]: I'll merge for now- I think the best approach in the future would be to move long running proofs to separate files that can be run together at the end of CI
